US08097610B2
Preparation of [3-[2-[1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-ylamino]ethoxy]phenyl]acetic acid methyl ester
A mixture of 1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-ylamine (190 mg), [3-(2-bromoethoxy)phenyl]acetic acid methyl ester (205 mg) and potassium carbonate (114 mg) was stirred at 80° C. for 2 hours. To the reaction solution, was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (174 mg). Yield: 52%.

reactant | 1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-ylamine | 190 mg | ClC1=CC2=C(N=C(S2)N2CC(CC2)N)C=C1 | C11H12ClN3S
reactant | [3-(2-bromoethoxy)phenyl]acetic acid methyl ester | 205 mg | COC(CC1=CC(=CC=C1)OCCBr)=O | C11H13BrO3
reactant | potassium carbonate | 114 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | [3-[2-[1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-ylamino]ethoxy]phenyl]acetic acid methyl ester | 174 mg, Yield: 52% | COC(CC1=CC(=CC=C1)OCCNC1CN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)=O | C22H24ClN3O3S
